US07745462B2
6,7-Dihydro-5H-[1]pyrindine-6-carboxylic acid amide (0.209 g, 1.28 mmol) is added portionwise to a suspension of LiAlH4 (0.204 g, 5.38 mmol) in THF (10 ml). After 5 minutes at ambient temperature, the reaction is heated to reflux for 1.5 hours and then cooled. Water (0.2 ml) is cautiously added, followed by 15% aqueous sodium hydroxide (0.2 ml), followed by further water (0.6 ml). The resultant granular precipitate is filtered and washed with EtOAc. The combined filtrate and washings are evaporated to afford C-(6,7-dihydro-5H-[1]pyrindin-6-yl)methylamine. δc 35.2 (t), 38.9 (t), 41.0 (d), 47.6 (t), 121.6 (d), 132.6 (d), 136.4 (s), 148.1 (s), 164.8 (s).

reactant | 6,7-Dihydro-5H-[1]pyrindine-6-carboxylic acid amide | 1.28 mmol, 0.209 g | N1=CC=CC=2CC(CC12)C(=O)N | C9H10N2O
reactant | LiAlH4 | 5.38 mmol, 0.204 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | Water | 0.2 ml | O | H2O
reactant | sodium hydroxide | 0.2 ml | [OH-].[Na+]
reactant | water | 0.6 ml | O | H2O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | C-(6,7-dihydro-5H-[1]pyrindin-6-yl)methylamine | N1=CC=CC=2CC(CC12)CN | C9H12N2
